US06288082B1
4-(3H-Benzotriazol-5-ylamino)-7-(2-chloroethoxy)-6-methoxyquinoline-3-carbonitrile
The title compound was prepared by the procedure of Example 166 using 0.442 g of 7-(2-chloro-ethoxy)-4-chloro-6-methoxy-quinoline-3-carbonitrile, 0.22 g 5-amino benzotriazole, 0.190 g of pyridine hydrochloride and 15 ml of 2-methoxyethanol to give 0.48 g (82%) of the desired product :mass spectrum (electrospray m/e): M+H=394.8.

reactant | 7-(2-chloro-ethoxy)-4-chloro-6-methoxy-quinoline-3-carbonitrile | 0.442 g | ClCCOC1=C(C=C2C(=C(C=NC2=C1)C#N)Cl)OC | C13H10Cl2N2O2
reactant | 5-amino benzotriazole | 0.22 g | NC1=CC2=C(NN=N2)C=C1 | C6H6N4
reactant | pyridine hydrochloride | 0.190 g | Cl.N1=CC=CC=C1
solvent | 2-methoxyethanol | 15 ml | COCCO | C3H8O2
product | 4-(3H-Benzotriazol-5-ylamino)-7-(2-chloroethoxy)-6-methoxyquinoline-3-carbonitrile | 0.48 g, 82% | N1=NNC2=C1C=CC(=C2)NC2=C(C=NC1=CC(=C(C=C21)OC)OCCCl)C#N | C19H15ClN6O2
